US07579341B2
A11b) ethyl(S)-4-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylate
A suspension of 2.15 g (5.52 mmol) 1-benzyl-2-ethyl(S)-4-(1-methyl-piperidin-4-yl)-piperazine-1,2-dicarboxylate and 100 mg 10% Pd/C in 50 mL EtOH was hydrogenated for 2 h at 50° C. and 3447 hPa hydrogen pressure. The catalyst was filtered off and the filtrate was evaporated to dryness. The product was reacted further without purification.

reactant | 1-benzyl-2-ethyl(S)-4-(1-methyl-piperidin-4-yl)-piperazine-1,2-dicarboxylate | 5.52 mmol, 2.15 g | CN1CCC(CC1)N1C[C@H](N(CC1)C(=O)OCCCC1=CC=CC=C1)C(=O)[O-]
reactant | hydrogen | [H][H] | H2
reactant | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | ethyl(S)-4-(1-methyl-piperidin-4-yl)-piperazine-2-carboxylate | CN1CCC(CC1)N1C[C@H](NCC1)C(=O)OCC | C13H25N3O2
